US07169924B2
A solution of E-3-(4-fluorophenyl)acrylirnidic acid ethyl ester hyrochloride (0.86 g, 0.00374 moles) in dry methanol (20 ml) was treated with a solution of ammonia (0.064 g, 3.8 mmol) in dry methanol (0.51 ml) and the resulting solution was allowed to stand at room temperature for 48 h. The reaction mixture was evaporated to dryness, mixed with diethyl ether and evaporated to give E-3-(4-fluorophenyl)acrylamidine hydrochloride as a solid (0.75 g, 100%); 1H-NMR (d6-DMSO) 6.72, 6.79 (1H, d) 7.35 (2H, m), 7.67 (2H, m), 7.87, 7.94 (1H, d), 8.8, 9.15 (2×bs). MS (APCl+)M+1=165, C9H9FN2 requires 164.

reactant | E-3-(4-fluorophenyl)acrylirnidic acid ethyl ester hyrochloride | 0.00374 moles, 0.86 g | Cl.C(C)OC(\C=C\C1=CC=C(C=C1)F)=N
reactant | ammonia | 3.8 mmol, 0.064 g | N | H3N
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 0.51 ml | CO | CH4O
product | E-3-(4-fluorophenyl)acrylamidine hydrochloride | 0.75 g, 100% | Cl.FC1=CC=C(C=C1)/C=C/C(=N)N | InChI=1S/C9H9FN2.ClH/c10-8-4-1-7(2-5-8)3-6-9(11)12;/h1-6H,(H3,11,12);1H/b6-3+;
